US06060462
A mixture of 2-(methylphenyl)benzoic acid (3.09 g, 14.55 mmol), sarcosine ethyl ester hydrochloride salt (2.23 g, 14.55 mmol), DCC (3.0 g, 14.55 mmol), HOBT (1.97 g, 14.55 mmol) and Et3N (1.47 g, 14.55 mmol) in THF (50 mL) were stirred at ambient temperature for 48 hours. The reaction was evaporated and the residue dissolved in EtOAc. The EtOAc solution was washed with HCl (10%), saturated NaHCO3 and brine, and dried (MgSO4). The EtOAc solution was filtered through a plug of silica gel follwoed by a second filtration through a plug of neutral alumina. Evaporation of the solution gave N-methyl-N-[2-(methylphenyl)benzoyl]glycine ethyl ester (4.5 g); LRMS (M+H)+ =312.2.

reactant | 2-(methylphenyl)benzoic acid | 14.55 mmol, 3.09 g | CC1=C(C=CC=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | sarcosine ethyl ester hydrochloride salt | 14.55 mmol, 2.23 g | Cl.C(C)OC(CNC)=O
reactant | DCC | 14.55 mmol, 3.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 14.55 mmol, 1.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 14.55 mmol, 1.47 g | CCN(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-methyl-N-[2-(methylphenyl)benzoyl]glycine ethyl ester | 4.5 g | C(C)OC(CN(C(C1=C(C=CC=C1)C1=C(C=CC=C1)C)=O)C)=O | C19H21NO3
